US07205302B2
(±)-4-[1-(5,6-diphenylpyrazin-2-yl)pyrrolidin-2-yl]-1-butanol
To a solution of 1.25 g of (±)-1-[1-(5,6-diphenylpyrazin-2-yl)pyrrolidin-2-yl]-4-(2-tetrahydropyranyloxy)butane in 13 ml of methanol, 0.52 g of p-toluenesulfonic acid monohydrate was added, followed by stirring at room temperature for 3 hours. The reaction solution was alkalified by adding an aqueous saturated sodium hydrogen carbonate solution, and then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to obtain 1.10 g of the desired compound as a pale yellow oily substance.

reactant | (±)-1-[1-(5,6-diphenylpyrazin-2-yl)pyrrolidin-2-yl]-4-(2-tetrahydropyranyloxy)butane | 1.25 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N1C(CCC1)CCCCOC1OCCCC1 | C29H35N3O2
reactant | p-toluenesulfonic acid monohydrate | 0.52 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 13 ml | CO | CH4O
product | (±)-4-[1-(5,6-diphenylpyrazin-2-yl)pyrrolidin-2-yl]-1-butanol | 1.10 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N1C(CCC1)CCCCO | C24H27N3O
